US07989622B2
A flask was charged with 2,3-dichloroquinoxaline (3.5 g, 18 mmol), 85 mL of dimethylsulfoxide, benzene sulfonamide (2.8 g, 18 mmol), and cesium carbonate (5.8 g, 18 mmol). The reaction mixture was stirred under an N2 atmosphere for 15 h at 150° C., after which time, it was transferred to a separatory funnel and 100 mL of water were added. Concentrated HCl was then added in order to acidify the reaction mixture to pH<2. The aqueous layer was subsequently washed three times with 90 mL ethyl acetate. The ethyl acetate layers were then washed two times with 150 mL water, three times with 100 mL brine and then dried over sodium sulfate. The ethyl acetate was removed on a rotary-evaporator. A slurry was formed by adding ethyl acetate and dichloromethane to the dried crude product, filtration yielded N-(3-chloroquinoxalin-2-yl)-benzenesulfonamide which was used without further purification. MS (EI) m/z C14H10ClN3O2S: 319.9 (MH+).

reactant | 2,3-dichloroquinoxaline | 18 mmol, 3.5 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | benzene sulfonamide | 18 mmol, 2.8 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | cesium carbonate | 18 mmol, 5.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | dimethylsulfoxide | 85 mL | CS(=O)C | C2H6OS
product | N-(3-chloroquinoxalin-2-yl)-benzenesulfonamide | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=CC=C1 | C14H10ClN3O2S
